US03998894
A mixture of 115 parts of o-chlorostyrene and 35 parts of o-chloroethylbenzene is added to 652 parts of 89 per cent strength by weight aqueous phosphoric acid at 40° to 45° C whilst stirring vigorously. A mixture of 90 parts of styrene, 115 parts of o-chlorostyrene and 35 parts of o-chloroethylbenzene is added to the resulting emulsion at a temperature of 40° to 45° C over 5 hours. After completion of the addition, the mixture is stirred for a further 2 hours at 40° to 45° C. The organic phase is separated off, washed with 200 parts of 3 per cent strength by weight sodium hydroxide solution and fractionated. 24.9 parts of 1-methyl-3-phenylindan (b.p. 145° to 146° C (10 mm)), 63.1 parts of 1-methyl-3-(o-chloro)-phenylindan (b.p. 165° to 168° C (10 mm), nD25 : 1.5890) and 31 parts of 1-methyl-3-(o-chloro)-phenyl-7-chloroindan (b.p. 195° to 200° C (10 mm)) are isolated.

reactant | o-chlorostyrene | ClC1=C(C=C)C=CC=C1 | C8H7Cl
reactant | o-chloroethylbenzene | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
